US06313137B1
Synthesis of 8-(2-ethyl-6-methylbenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine-6-carboxamide
Ethyl 6-(aminocarbonyl)-8-(2-ethyl-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine-3-carboxylate (280 mg, 0.71 mmol) and lithium borohydride (16 mg, 0.71 mmol) were added to tetrahydrofuran (10 ml) and the reaction mixture was refluxed for 70 min. Additional amounts of lithium borohydride (16 mg) and methanol (45 mg, 1.42 mmol) were added and the mixture was refluxed for 80 min. Additional amounts of lithium borohydride (16 mg) and methanol (22 mg, 71 mmol) were added and the mixture was refluxed for 4 h. The reaction mixture was allowed to reach R.T. and water (1 ml) and methanol (5 ml) and was stirred for 40 min. at R.T. The solvents were evaporated under reduced pressure and the residue was added to water and was stirred for 80 min. The crystals were filtered off and washed with water, ethyl acetate/ethanol and diethyl ether to give the desired product (115 mg, 46%).

reactant | Ethyl 6-(aminocarbonyl)-8-(2-ethyl-6-methylbenzylamino)-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 0.71 mmol, 280 mg | NC(=O)C=1C=C(C=2N(C1)C(=C(N2)C)C(=O)OCC)NCC2=C(C=CC=C2C)CC | C22H26N4O3
reactant | lithium borohydride | 0.71 mmol, 16 mg | [BH4-].[Li+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | lithium borohydride | 16 mg | [BH4-].[Li+]
reactant | lithium borohydride | 16 mg | [BH4-].[Li+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
solvent | methanol | 71 mmol, 22 mg | CO | CH4O
solvent | methanol | 1.42 mmol, 45 mg | CO | CH4O
product | 8-(2-ethyl-6-methylbenzylamino)-3-hydroxymethyl-2-methylimidazo[1,2-a]pyridine-6-carboxamide | 115 mg, 46% | C(C)C1=C(CNC=2C=3N(C=C(C2)C(=O)N)C(=C(N3)C)CO)C(=CC=C1)C | C20H24N4O2
